US06110929
3-Aminoquinolin-4-ol hydrochloride (6 g) was refluxed with propanoic anhydride (8 eq.) until analysis by thin layer chromatography indicated that the reaction was complete. The reaction mixture was cooled, diluted with ice and water, made basic with 10% sodium hydroxide and then extracted with dichloromethane. The extract was washed with water and brine, dried over magnesium sulfate and then concentrated under vacuum. The residue was purified by column chromatography (silica gel eluting with methanol/ethyl acetate) to provide 4.0 g of 2-ethyloxazolo[4,5-c]quinoline.

reactant | 3-Aminoquinolin-4-ol hydrochloride | 6 g | Cl.NC=1C=NC2=CC=CC=C2C1O
reactant | propanoic anhydride | 8 eq. | C(CC)(=O)OC(CC)=O | C6H10O3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
product | 2-ethyloxazolo[4,5-c]quinoline | 4.0 g | C(C)C=1OC2=C(C=NC=3C=CC=CC23)N1 | C12H10N2O
